US04391821
11.3 g 3-phenyl-7-hydroxy-3,4-dihydro-2H-1-benzopyrane, 0.1 cm3 piperidine and 22 cm3 1-chloro-2,3-epoxypropane were stirred at 90° C. for 9 hours. The solution was evaporated under reduced pressure, then twice 60-60 cm3 of benzene were distilled off from the residue, it was dissolved in 50 cm3 of tetrahydrofurane and into the solution hydrochloric gas was introduced for 5 minutes. The solution was evaporated after an hour's standing, and the residue was crystallized from aceton. 10 g 1-chloro-3-(3-phenyl-3,4-dihydro-2H-1-benzopyrane-7-yloxy)-2-propanol (m.p. 74°-76° C.) was obtained.

reactant | 3-phenyl-7-hydroxy-3,4-dihydro-2H-1-benzopyrane | 11.3 g | C1(=CC=CC=C1)C1COC2=C(C1)C=CC(=C2)O | C15H14O2
reactant | piperidine | 0.1 cm3 | N1CCCCC1 | C5H11N
reactant | 1-chloro-2,3-epoxypropane | 22 cm3 | ClCC1CO1 | C3H5ClO
product | 1-chloro-3-(3-phenyl-3,4-dihydro-2H-1-benzopyrane-7-yloxy)-2-propanol | 10 g | ClCC(COC1=CC2=C(CC(CO2)C2=CC=CC=C2)C=C1)O | C18H19ClO3
